US09334278B2
To a solution of tert-butyl 1-(3-(7-(tert-butylcarbamoyl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazin-2-ylamino)phenyl)ethylcarbamate (150 mg, 257 mol) in dichloromethane (4 mL) was added trifluoroacetic acid (587 mg, 397 μL, 5.15 mmol) and the mixture stirred at room temperature for 16 h. The mixture was concentrated then re-dissolved in dichloromethane (4 mL), methanol (2 mL) and ammonium hydroxide (0.7 mL) and the mixture stirred at room temperature for 1 h. The reaction mixture was concentrated then purified by chromatography (silica, 6-10% methanol/dichloromethane) to give 2-(3-(1-aminoethyl)phenylamino)-N-tert-butyl-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (64 mg, 182 mol, 71%) as a yellow solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 9.44 (s, 1H), 8.01 (s, 1H), 7.99 (d, J=7.9, 1 H), 7.98 (s, 1H), 7.77 (s, 1H), 7.22 (t, J=7.8, 1 H), 7.20 (s, 1H), 6.98 (d, J=7.8, 1 H), 4.05 (q, J=6.1, 1 H), 1.43 (s, 9H), 1.32 (d, J=6.5, 3 H); MS (EI/CI) m/z: 353.2 [M+H].

reactant | tert-butyl 1-(3-(7-(tert-butylcarbamoyl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazin-2-ylamino)phenyl)ethylcarbamate | 257 mol, 150 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC=2C=C(C=CC2)C(C)NC(OC(C)(C)C)=O)COCC[Si](C)(C)C | C30H46N6O4Si
reactant | trifluoroacetic acid | 5.15 mmol, 397 μL, 587 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2-(3-(1-aminoethyl)phenylamino)-N-tert-butyl-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 182 mol, 64 mg, 71% | NC(C)C=1C=C(C=CC1)NC=1N=C2C(=NC1)NC=C2C(=O)NC(C)(C)C | C19H24N6O
